US04692443
3-Amino-4-hydroxypyridine was reacted with acetic anhydride to afford 4.7 g of 2-methyloxazolo[4,5-c]pyridine; mp 56°-58° C.

reactant | 3-Amino-4-hydroxypyridine | NC=1C=NC=CC1O | C5H6N2O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-methyloxazolo[4,5-c]pyridine | 4.7 g | CC=1OC2=C(C=NC=C2)N1 | C7H6N2O
